US05105017
N,N-dimethyl-3-acetoxy-2-propylbenzylamine hydrochloride
To a solution of 83 g. of N,N-dimethyl-3-hydroxy-2-propylbenzylamine hydrobromide in 40 ml. of pyridine, 3 g. of 4-(dimethylamino)pyridine, and one liter of methylene chloride cooled by means of an external ice bath were added 32.3 ml. of acetyl chloride. After stirring two hours with cooling, 150 ml. of water were added and a solution was stirred an additional 30 minutes. The reaction was then treated with a large excess of a potassium carbonate solution and the layers were separated. The methylene chloride layer was washed with water, dried over sodium sulfate, and was evaporated in vacuo. The residue was distilled at 64°-77° C./0.01-0.04 torr to provide 65 g. of the free base of title product. The distillate was dissolved in 800 ml. of acetone, cooled, and treated with dry hydrogen chloride gas. After the solution was saturated, gas addition was stopped and one liter of diethyl ether was added. After standing overnight, the solution was filtered to provide 70.1 g. of the title product hydrochloride salt, m.p. 168°-173° C., NMR, IR.

reactant | N,N-dimethyl-3-hydroxy-2-propylbenzylamine hydrobromide | Br.CN(C)CC1=C(C(=CC=C1)O)CCC
reactant | pyridine | N1=CC=CC=C1 | C5H5N
reactant | acetyl chloride | C(C)(=O)Cl | C2H3ClO
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
catalyst | 4-(dimethylamino)pyridine | CN(C1=CC=NC=C1)C | C7H10N2
solvent | water | O | H2O
solvent | methylene chloride | one liter | C(Cl)Cl | CH2Cl2
product | N,N-dimethyl-3-acetoxy-2-propylbenzylamine hydrochloride | Cl.CN(C)CC1=C(C(=CC=C1)OC(C)=O)CCC | InChI=1S/C14H21NO2.ClH/c1-5-7-13-12(10-15(3)4)8-6-9-14(13)17-11(2)16;/h6,8-9H,5,7,10H2,1-4H3;1H
